US07576222B2
Step 3: Synthesis of 2-amino-3-(5-bromo-1H-indol-3-yl)-propionic Acid Ethyl Ester
Zinc dust (3.30 g, 50.4 mmol) was added portionwise to a stirred solution of 2-hydroxyimino-3-(5-bromo-1H-indol-3-yl)-propionic acid ethyl ester (4.10 g, 12.61 mmol) in acetic acid (100 mL) over 30 min. After stirring overnight, the mixture was filtered through CELITE® and concentrated. The residue was dissolved in 1 N HCl and re-evaporated to give 4.30 g of the title compound as a crude material. LCMS m/z (ESI) [M−HCl+H]+ calcd for C1-3H15BrN2O2 (Br79) 312.2, found 312.2.

reactant | 2-hydroxyimino-3-(5-bromo-1H-indol-3-yl)-propionic acid ethyl ester | 12.61 mmol, 4.10 g | C(C)OC(C(CC1=CNC2=CC=C(C=C12)Br)=NO)=O | C13H13BrN2O3
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
catalyst | Zinc | 50.4 mmol, 3.30 g | [Zn] | Zn
product | 2-amino-3-(5-bromo-1H-indol-3-yl)-propionic Acid Ethyl Ester | 4.30 g | C(C)OC(C(CC1=CNC2=CC=C(C=C12)Br)N)=O | C13H15BrN2O2
